US07750003B2
6-(Chloromethyl)-2-methylsulfanyl-pyrimidin-4-ol
S-Methyl-2-thiopseudourea sulphate (20 g, 71.85 mmol), ethyl 4-chloroacetoacetate (10.755 ml, 79.04 mmol) and sodium carbonate (13.925 g, 107.78 mmol) were dissolved in water (100 ml) and stirred at room temperature overnight. The reaction was monitored by TLC, and once complete, the reaction precipitate was collected and the supernatant was neutralised with 6N hydrochloric acid to yield more reaction precipitate which was also collected. The accumulated precipitate was then washed with water (×3) and an off-white solid was obtained. This was dried in vacuo at 60° C. for 48 hours to yield the desired compound as a pale yellow/white solid, 43.2 g.

reactant | S-Methyl-2-thiopseudourea sulphate | 71.85 mmol, 20 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | ethyl 4-chloroacetoacetate | 79.04 mmol, 10.755 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sodium carbonate | 107.78 mmol, 13.925 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 6-(Chloromethyl)-2-methylsulfanyl-pyrimidin-4-ol | ClCC1=CC(=NC(=N1)SC)O | C6H7ClN2OS
